US07612060B2
Step (ii): Synthesis of (R)-methyl 2-(2-nitropyridin-3-ylamino)pent-4-ynoate
To a mixture of 3-fluoro-2-nitropyridine (860 mg, 6.05 mmol) and (R)-methyl 2-aminopent-4-ynoate (1.924 g, 15.131 mmol) in DMF was added triethylamine (2.55 ml, 18.16 mmol) and the resulting solution was stirred over the weekend. The reaction mixture was quenched with sat. NaHCO3, extracted with EtOAc/hexane=2:1, washed with brine, dried over Na2SO4 and the solvent was evaporated. Flash chromatography (SiO2, DCM to DCM/EtOAc=3:1 to 2:1) afforded the title compound as a pale yellow solid.

reactant | 3-fluoro-2-nitropyridine | 6.05 mmol, 860 mg | FC=1C(=NC=CC1)[N+](=O)[O-] | C5H3FN2O2
reactant | (R)-methyl 2-aminopent-4-ynoate | 15.131 mmol, 1.924 g | N[C@@H](C(=O)OC)CC#C | C6H9NO2
reactant | triethylamine | 18.16 mmol, 2.55 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-methyl 2-(2-nitropyridin-3-ylamino)pent-4-ynoate | [N+](=O)([O-])C1=NC=CC=C1N[C@@H](C(=O)OC)CC#C | C11H11N3O4
